US08859555B2
Intermediate A: (Trans)-2-phenylcyclopropanamine
NaOMe (0.80 g, 11.8 mmol) was added over a solution of (trans)-2-phenylcyclopropanamine hydrochloride (2.00 g, 11.8 mmol) in MeOH (40 mL) and stirred 1 hour. The solvent was removed to dryness.

reactant | NaOMe | 11.8 mmol, 0.80 g | C[O-].[Na+]
reactant | (trans)-2-phenylcyclopropanamine hydrochloride | 11.8 mmol, 2.00 g | Cl.C1(=CC=CC=C1)[C@H]1[C@@H](C1)N
solvent | MeOH | 40 mL | CO | CH4O
product | (Trans)-2-phenylcyclopropanamine | C1(=CC=CC=C1)[C@H]1[C@@H](C1)N | C9H11N
